US07084155B2
AMD8971: Preparation of N-(2-pyridinylmethyl)-N′-(5-benzoyl-1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
A solution of 5-benzoyl-2-chloromethylbenzimidazole (284 mg, 1.05 mmol), N-(tert-butoxycarbonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (476 mg, 1.04 mmol) and N,N-diisopropylethylamine (0.36 mL, 2.08 mmol) were stirred at 80□ C in DMF (4 mL) for 16 hours. The reaction was then cooled, concentrated under reduced pressure and diluted with CH2Cl2 (35 mL) and saturated aqueous NaHCO3 (40 mL). The phases were separated and the aqueous phase was washed with CH2Cl2 (2×25 mL). The combined organic extracts were washed with saturated aqueous NaHCO3 (1×40 mL), dried (NaSO4), filtered and concentrated under reduced pressure. Purification of the resultant oil by flash chromatography on silica gel (96:4 CH2Cl2/MeOH) provided the desired alkylated product (468 mg, 65%) as an orange oil.

reactant | 5-benzoyl-2-chloromethylbenzimidazole | 1.05 mmol, 284 mg | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)CCl)C=C1 | C15H11ClN2O
reactant | N-(tert-butoxycarbonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 1.04 mmol, 476 mg | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12)CC1=NC=CC=C1 | C28H34N4O2
reactant | N,N-diisopropylethylamine | 2.08 mmol, 0.36 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(2-pyridinylmethyl)-N′-(5-benzoyl-1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 468 mg, 65% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC(=C2)C(C2=CC=CC=C2)=O | C38H36N6O
